US07160901B2
f. (Z)-3-{1-[4-(N-acetyl-N-(2-aminoethyl)-amino)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone
A mixture of 0.5 g (1 mmol) of 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-acetyl-N-phenylsulphonyl-amino)-2-indolinone and 0.3 g (1.2 mmol) of 4-[N-acetyl-N-(2-trifluoroacetylamino-ethyl)-amino]-aniline are stirred in 5 ml of DMF for 6 hours at 120° C. After cooling to ambient temperature 5 ml of methanol and 3 ml (6 mmol) of 2 N sodium hydroxide solution are added, and the mixture is stirred for 30 minutes. The reaction mixture is diluted with 50 ml of water and the crystalline precipitate is suction filtered and dried. The residue is chromatographed on silica gel (dichloromethane/methanol/ammonia=9:1:0.1).

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-acetyl-N-phenylsulphonyl-amino)-2-indolinone | 1 mmol, 0.5 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)N(S(=O)(=O)C1=CC=CC=C1)C(C)=O)=C(C1=CC=CC=C1)OCC)=O | C27H24N2O6S
reactant | 4-[N-acetyl-N-(2-trifluoroacetylamino-ethyl)-amino]-aniline | 1.2 mmol, 0.3 g | C(C)(=O)N(CCNC(C(F)(F)F)=O)C1=CC=C(N)C=C1 | C12H14F3N3O2
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 6 mmol, 2 N, 3 ml | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | (Z)-3-{1-[4-(N-acetyl-N-(2-aminoethyl)-amino)-phenylamino]-1-phenyl-methylidene}-5-phenylsulphonylamino-2-indolinone | C(C)(=O)N(CCN)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C31H29N5O4S
